US07626030B2
6-(6,7-Dimethoxyquinolin-4-yloxy)benzofuran-3-carboxylic acid (31 mg, 0.085 mmol) and 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (41 mg, 0.127 mmol) were added to a reaction tube then dissolved in DMF (0.6 mL). 4-chloroaniline (13 mg, 0.102 mmol) was added to the reaction mixture, followed by N,N-diisopropylethylamine (22 mg, 0.17 mmol) and stirring was continued for 2 days. The mixture was concentrated in vacuo. The remaining orange oil was purified by silica gel chromatography (1% to 2% methanol in dichloromethane) to afford N-(4-chlorophenyl)-6-(6,7-dimethoxyquinolin-4-yloxy)benzofuran-3-carboxamide as a yellow solid (5 mg). MS (ESI, pos. ion) m/z: 475.1 (M+1). Mass calc'd for C26H19ClN2O5: 474.89.

reactant | 6-(6,7-Dimethoxyquinolin-4-yloxy)benzofuran-3-carboxylic acid | 0.085 mmol, 31 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC2=C(C(=CO2)C(=O)O)C=C1 | C20H15NO6
reactant | 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.127 mmol, 41 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 4-chloroaniline | 0.102 mmol, 13 mg | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | N,N-diisopropylethylamine | 0.17 mmol, 22 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
product | N-(4-chlorophenyl)-6-(6,7-dimethoxyquinolin-4-yloxy)benzofuran-3-carboxamide | 5 mg | ClC1=CC=C(C=C1)NC(=O)C1=COC2=C1C=CC(=C2)OC2=CC=NC1=CC(=C(C=C21)OC)OC | C26H19ClN2O5
